US04357282
The above ethyl ether, 43 g (0.175 mol), in a 100 ml flask equipped as described in Example 6 was mixed with 1 g (0.0075 mol) of AlCl3. The mixture was refluxed for 17 hours. Material condensed in the attached Dry Ice-acetone trap was combined with residual material in the flask and distilled in a low-temperature still. An amount of 30.8 g of unreacted (CF3)2CHCF2OC2H5 was recovered, together with 9.1 g (26.3% yield) of (CF3)2CHCOF, 2.2 g of C2H5F and 0.1 g of (CF3)2CHCOCl. No improvement in product yield was obtained when the reactants were heated in a sealed tube at 120° for 4 hours.

reactant | AlCl3 | 0.0075 mol, 1 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | (CF3)2CHCF2OC2H5 | 30.8 g | C(C(F)(F)F)(C(F)(F)F)C(F)(F)OCC | C6H6F8O
reactant | C2H5F | 2.2 g | C(C)F | C2H5F
catalyst | (CF3)2CHCOCl | 0.1 g | C(C(F)(F)F)(C(F)(F)F)C(=O)Cl | C4HClF6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | (CF3)2CHCOF | 9.1 g, 26.3% yield | C(C(F)(F)F)(C(F)(F)F)C(=O)F | C4HF7O
